US07423030B2
22.1. 2-(1,3-Benzodioxol-5-yl)carbonyl-5-methoxybenzoic acid
This compound is obtained according to the procedure described in 1.1. by reacting 1,3-benzodioxole-5-carboxylic acid and 2-bromo-5-methoxybenzoic acid after halogen-lithium exchange. It is used in crude form in the following reaction.

reactant | 1,3-benzodioxole-5-carboxylic acid | O1COC2=C1C=CC(=C2)C(=O)O | C8H6O4
reactant | 2-bromo-5-methoxybenzoic acid | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
product | 2-(1,3-Benzodioxol-5-yl)carbonyl-5-methoxybenzoic acid | O1COC2=C1C=CC(=C2)C(=O)C2=C(C(=O)O)C=C(C=C2)OC | C16H12O6
